US07799775B2
A mixture of 131 mg of 3-amino-2-methylthio-3H-quinazolin-4-one as synthesized in above Step 6-1-A and 172 mg 3-(4-quinolin-2-ylpiperazin-1-yl)propylamine was heated at 145° C. under stirring for 5 hours. The reaction mixture was cooled and purified on silica gel column chromatography (methanol:methylene chloride=1:19) to provide 198 mg (73%) of 3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylamino]-3H-quinazolin-4-one.

reactant | 3-amino-2-methylthio-3H-quinazolin-4-one | 131 mg | NN1C(=NC2=CC=CC=C2C1=O)SC | C9H9N3OS
reactant | 3-(4-quinolin-2-ylpiperazin-1-yl)propylamine | 172 mg | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCN | C16H22N4
product | 3-amino-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylamino]-3H-quinazolin-4-one | 198 mg, 73% | NN1C(=NC2=CC=CC=C2C1=O)NCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C24H27N7O
